US06670391B2
In the same manner as in Reference Example 1, except that an equimolar amount of 3-butoxy-4,8-dihydroxy-2H-1-benzopyran-2-one was used in place of 3-ethoxy-4,5-dihydroxy-2H-1-benzopyran-2-one, and 4-bromobutyl acetate was used in place of 2-bromoethyl acetate in Reference Example 1, 3-butoxy-4-hydroxy-8-(4-acetoxybutoxy)-2H-1-benzopyran-2-one was obtained.

reactant | 3-butoxy-4,8-dihydroxy-2H-1-benzopyran-2-one | C(CCC)OC=1C(OC2=C(C1O)C=CC=C2O)=O | C13H14O5
reactant | 4-bromobutyl acetate | C(C)(=O)OCCCCBr | C6H11BrO2
product | 3-butoxy-4-hydroxy-8-(4-acetoxybutoxy)-2H-1-benzopyran-2-one | C(CCC)OC=1C(OC2=C(C1O)C=CC=C2OCCCCOC(C)=O)=O | C19H24O7
